US04608379
1-Hexyl-2-methylpyridinium bromide (7.8 g, 0.03 mole) and 4-diethylaminobenzaldehyde (7.0 g, 0.04 mole) were refluxed in methanol (50 ml) in the presence of piperidine (1.0 ml) under nitrogen for four hours. The solution was evaporated and the resulting oil was redissolved in a small amount of isopropanol. Addition of twice the volume of ether gave a red crystalline solid which was collected and washed with isopropanol/ether to give 2-[4-(diethylamino)styryl]-1-hexylpyridinium bromide hemihydrate (5.8 g), melting point 222°-223° (decomposition).

reactant | 1-Hexyl-2-methylpyridinium bromide | 0.03 mole, 7.8 g | [Br-].C(CCCCC)[N+]1=C(C=CC=C1)C
reactant | 4-diethylaminobenzaldehyde | 0.04 mole, 7.0 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | piperidine | 1.0 ml | N1CCCCC1 | C5H11N
solvent | methanol | 50 ml | CO | CH4O
product | 2-[4-(diethylamino)styryl]-1-hexylpyridinium bromide hemihydrate | 5.8 g | O.[Br-].C(C)N(C1=CC=C(C=CC2=[N+](C=CC=C2)CCCCCC)C=C1)CC.C(C)N(CC)C1=CC=C(C=CC2=[N+](C=CC=C2)CCCCCC)C=C1.[Br-] | InChI=1S/2C23H33N2.2BrH.H2O/c2*1-4-7-8-10-19-25-20-11-9-12-22(25)16-13-21-14-17-23(18-15-21)24(5-2)6-3;;;/h2*9,11-18,20H,4-8,10,19H2,1-3H3;2*1H;1H2/q2*+1;;;/p-2
